US09260418B2
To a solution of the above compound (0.109 g, 0.619 mmol) in 3 mL of dichloromethane was added triphenylphosphine (0.162 g, 0.619 mmol), imidazole (0.084 g, 1.3 mmol), and carbon tetrabromide (0.226 g, 0.680 mmol). After 30 min, the reaction was treated with saturated aqueous sodium carbonate. The organic solution washed 2× with water, dried over sodium sulfate, filtered, and concentrated in vacuo. The residue was purified via silica gel chromatography, eluting with 0-25% ethyl acetate in hexanes to provide 4-(bromomethyl)-1-ethyl-1H-pyrrolo[2,3-b]pyridine that gave proton NMR spectra consistent with theory and a mass ion (ES+) of 241.1 (81Br).

reactant | triphenylphosphine | 0.619 mmol, 0.162 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | imidazole | 1.3 mmol, 0.084 g | N1C=NC=C1 | C3H4N2
reactant | carbon tetrabromide | 0.680 mmol, 0.226 g | C(Br)(Br)(Br)Br | CBr4
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | dichloromethane | 3 mL | ClCCl | CH2Cl2
product | 4-(bromomethyl)-1-ethyl-1H-pyrrolo[2,3-b]pyridine | BrCC1=C2C(=NC=C1)N(C=C2)CC | C10H11BrN2
